US06388146B1
First, 9.39 g of 4-(1-hydroxyethyl)-4′-(trans-4-pentylcyclohexyl)biphenyl, 0.52 g of potassium hydrogensulfate, and 50 ml of toluene were put in a 300 ml flask provided with a water content quantitative tube, and subjected to azeotropic dehydration under reflux for four hours. After the reaction, ether was added to the reaction solution, which was then washed with a saturated brine, and dried with sodium sulfate. The solvent was then distilled off. The residue was recrystallized from hexane to obtain 1.88 g (Y: 21.1%) of 4-(trans-4-pentylcyclohexyl)vinylbiphenyl. The purity of the resultant compound was 100.0% as measured by GC, 99.9% as measured by HPLC, and 1 spot as measured by TLC. The phase transfer temperature of the resultant compound was as follows.

reactant | 4-(1-hydroxyethyl)-4′-(trans-4-pentylcyclohexyl)biphenyl | 9.39 g | OC(C)C1=CC=C(C=C1)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCCC | C25H34O
reactant | potassium hydrogensulfate | 0.52 g | S(=O)(=O)(O)[O-].[K+]
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | 4-(trans-4-pentylcyclohexyl)vinylbiphenyl | 1.88 g, 21.1% | C(CCCC)[C@@H]1CC[C@H](CC1)C=CC1=CC=C(C=C1)C1=CC=CC=C1 | C25H32
